US04412992
2 g. 4-Nitrobenzoylalanine in 50 ml. ethanol were hydrogenated in the presence of 0.2 g. palladium-charcoal (5%). Removal of the catalyst and of the solvent gave a solid which was crystallised from ethanol-diethyl ether (1:2 v/v) to give 4-aminobenzoylalanine; m.p. 198°-199° C.

reactant | 4-Nitrobenzoylalanine | [N+](=O)([O-])C1=CC=C(C(=O)N[C@@H](C)C(=O)O)C=C1 | C10H10N2O5
catalyst | palladium-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-aminobenzoylalanine | NC1=CC=C(C(=O)N[C@@H](C)C(=O)O)C=C1 | C10H12N2O3
